US04284631
A solution of 2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetic acid (syn isomer, 2.54 g) and conc. hydrochloric acid (3 ml) in methanol (30 ml) was stirred at room temperature for an hour. After removing methanol from the resultant mixture in vacuo, water was added to the residue and adjusted to pH 3.3 with an aqueous solution of sodium bicarbonate under ice-cooling. The precipitates were collected by filtration to give 2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetic acid (syn isomer, 2.1 g)

reactant | 2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetic acid | 2.54 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC#N | C8H6N4O4S
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetic acid | 2.1 g | NC=1SC=C(N1)C(C(=O)O)=NOCC#N | C7H6N4O3S
